2155-08-12 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 63 year old male with a history of poorly
   differentiated non-small cell lung cancer with known metastases to
   brain and liver, polycythemia [**Doctor First Name **], and RUE DVT on lovenox who presents
   with worsening dyspnea.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2155-8-11**] 09:30 AM
   [**8-11**]
   - vanc/zosyn empirically for now for post-obstructive pna
   - ? pleurex cath for reaccumulating effusions; NPO past MN and still
   holding lovenox
   - IP will reassess in AM as pt denied prior improvement with tap.Also
   felt no evidence of obstruction that would warrant stenting.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2155-8-11**] 07:53 PM
   Piperacillin - [**2155-8-12**] 04:16 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2155-8-11**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-8-12**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 83 (83 - 104) bpm
   BP: 114/62(74) {88/45(59) - 120/69(79)} mmHg
   RR: 24 (18 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    966 mL
                                                                    100 mL
   PO:
                                                                     50 mL
             TF:
   IVF:
                                                                    916 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                    980 mL
   Urine:
                                                                  1,990 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,024 mL
                                                                   -880 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 672 (672 - 672) mL
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   SpO2: 94%
   ABG: ///28/
   Ve: 12.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   115 K/uL
   11.0 g/dL
   115 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.0 mEq/L
   21 mg/dL
   102 mEq/L
   136 mEq/L
   35.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2155-8-11**]  12:02 AM
                             [**2155-8-11**]  03:54 AM
                             [**2155-8-12**]  05:10 AM
   WBC
   12.5
   7.2
   Hct
   42.9
   35.3
   Plt
   180
   115
   Cr
   1.1
   0.9
   TCO2
   27
   Glucose
   123
   125
   115
   Other labs: PT / PTT / INR:15.0/24.8/1.3, Differential-Neuts:86.0 %,
   Band:0.0 %, Lymph:9.0 %, Mono:2.0 %, Eos:3.0 %, Lactic Acid:1.3 mmol/L,
   Ca++:7.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Imaging: CTA [**8-10**]
   IMPRESSION:
   1. No evidence of PE.
   2. Bilateral pleural effusions, right greater than left, slightly
   increased
   in size since the prior study.
   3. Increase in encasement of the right-sided airways by soft tissue
   density,
   likely representing tumor, with areas of increased consolidation in the
   inferior aspect of the right upper lobe and right middle lobe likely
   due to
   post-obstructive pneumonia, although increased tumor burden cannot be
   excluded.
   4. Diffuse bronchovascular and septal thickening consistent with
   lymphangitic
   spread of tumor.
   5. Stable left lower lobe lung mass.
   6. Stable diffuse bony metastases and hepatic metastases.
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), LUNG
   63 year old male with a history of poorly differentiated non-small cell
   lung cancer with known metastases to brain and liver, polycythemia
   [**Doctor First Name **], and RUE DVT on lovenox who presents with worsening dyspnea.
   # Dyspnea:  Likely multifactorial, with lymphangitic spread and
   re-accumulation of pleural fluids as primary causes.  [**Month (only) 11**] also have an
   element of post-obstructive pna given chest CTA findings, leukocytosis,
   cough, and subjective fevers at home.  No evidence of PE on prelim
   read.  Subjectively improved with bipap with stable blood gas.
   - IP c/s in a.m. regarding pleurex catheter given rapid re-accumulation
   of effusions
   - trial of lasix tonight for symptomatic improvement
   - would continue vanc/zosyn empirically for now for post-obstructive
   pna
   - standing bronchodilators (albuterol and ipratropium)
   - hold lovenox for now given possible procedure
   # Thrombocytopenia: Pt's low plts (115) is new, has no history of
   thrombocytopenia. Admission plts 180's, which is a drop from his usual
   range in the 400's (pt has known [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1018**]).
   - Recheck plts today
   # Anemia: Hct is also down from admission (41->35). INR elevated at
   1.3, which it has been in the past. Lovenox was stopped on admission.
   - Check for e/o bleeding
   - Hemolysis labs
   # Non-small cell lung cancer:  Has known metastases to brain and liver,
   recent drainage of a malignant right pleural effusion, ?worsening
   lymphangitic spread on chest CT, and initiation of new chemotherapeutic
   [**Doctor Last Name 23**] in the setting of progression.   .
   # Right upper extremity DVT:  Has been on lovenox at home.
   - holding lovenox for now in setting of possible procedure
   - clarify whether heparin gtt is an option given brain mets
   # Polycythemia [**Doctor First Name **]:  stable, no active issues.
   FEN: NPO for procedure
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2155-8-10**] 10:46 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments: Wife is [**Name (NI) 7962**] [**Name (NI) 1801**]
   [**Telephone/Fax (1) 7963**] (h); [**Telephone/Fax (1) 7964**] (c)
   Code status: Full code
   Disposition:ICU

2155-08-12 10:54:00 Physician Attending Progress Note
Chief Complaint: metastatic NSCLC lymphagitic spread of tumor,
   shortness of breath.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   IP consulted, plan for thoracentesis + bronchoscopy. Placed on
   Vanco/Zosyn for empiric coverage for postobstructive pneumonia. Echo
   obtained results pending.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2155-8-12**] 04:16 AM
   Vancomycin - [**2155-8-12**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   albuterol, atrovent, advair
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Orthopnea
   Nutritional Support: NPO
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2155-8-12**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 92 (83 - 104) bpm
   BP: 105/67(76) {88/46(62) - 120/71(79)} mmHg
   RR: 19 (18 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    966 mL
                                                                    350 mL
   PO:
                                                                     50 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    916 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                  1,540 mL
   Urine:
                                                                  1,990 mL
                                                                  1,540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,024 mL
                                                                 -1,190 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   left), (Breath Sounds: Crackles : bilaterally R>L, No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   115 K/uL
   115 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.0 mEq/L
   21 mg/dL
   102 mEq/L
   136 mEq/L
   35.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2155-8-11**]  12:02 AM
                             [**2155-8-11**]  03:54 AM
                             [**2155-8-12**]  05:10 AM
   WBC
   12.5
   7.2
   Hct
   42.9
   35.3
   Plt
   180
   115
   Cr
   1.1
   0.9
   TCO2
   27
   Glucose
   123
   125
   115
   Other labs: PT / PTT / INR:15.0/24.8/1.3, Alk Phos / T Bili:/2.0,
   Differential-Neuts:86.0 %, Band:0.0 %, Lymph:9.0 %, Mono:2.0 %, Eos:3.0
   %, Lactic Acid:1.3 mmol/L, LDH:277 IU/L, Ca++:7.3 mg/dL, Mg++:2.2
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), LUNG:
    Appreciate IP recommendations. Plan for bronch +/- brachytherapy +/-
   thoracentesis. Continue supportive care. Echo within normal limits. No
   signs for volume overload.  [**Month (only) 11**] need PleurX catheter placement as
   outpatient
 Thrombocytopenia: Recheck with next draw. Added on hemolysis labs,
   has been off lovenox. No evidence for other culprit drug. Will follow
   trend
   ICU Care
   Nutrition: NPO for procedure will restart post procedure.
   Glycemic Control:  not indicated.
   Lines: PIV
   18 Gauge - [**2155-8-10**] 10:46 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin, on hold for
   procedure will resume post procedure
   Stress ulcer: Not indicated
   VAP: not indicated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor if stable post procedure
   Total time spent: 30 minutes

2155-08-13 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2155-8-12**] 06:17 PM
 BLOOD CULTURED - At [**2155-8-12**] 10:05 PM
 URINE CULTURE - At [**2155-8-12**] 10:05 PM
   Had [**Female First Name (un) 231**] with 1200 ml serous fluid removed. Afterwards had pain at
   procedure site. Was started on PRN morphine 1 mg Q2H
   Restarted lovenox
   Hct appeared fasly low after procedure, but was rechecked and stable
   CXR after procedure with improved effusion
   Potential plan for IR to tap left side either tomorrow or next day with
   eventual catheter placment later this week
   Had temp to [**Age over 90 2224**] yesterday. Recultured.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2155-8-12**] 11:34 AM
   Vancomycin - [**2155-8-12**] 09:04 PM
   Piperacillin/Tazobactam (Zosyn) - [**2155-8-13**] 04:48 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2155-8-13**] 04:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2155-8-13**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (98.9
   HR: 85 (82 - 104) bpm
   BP: 101/58(68) {94/44(55) - 121/71(87)} mmHg
   RR: 23 (17 - 36) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    930 mL
                                                                    173 mL
   PO:
                                                                    230 mL
             TF:
   IVF:
                                                                    700 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                  4,735 mL
                                                                    460 mL
   Urine:
                                                                  2,335 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
                                                                  2,400 mL
   Balance:
                                                                 -3,805 mL
                                                                   -288 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   105 K/uL
   10.8 g/dL
   106 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   18 mg/dL
   104 mEq/L
   135 mEq/L
   35.0 %
   8.6 K/uL
        [image002.jpg]
                             [**2155-8-11**]  12:02 AM
                             [**2155-8-11**]  03:54 AM
                             [**2155-8-12**]  05:10 AM
                             [**2155-8-12**]  01:10 PM
                             [**2155-8-12**]  05:31 PM
                             [**2155-8-13**]  03:47 AM
   WBC
   12.5
   7.2
   6.0
   8.6
   8.6
   Hct
   42.9
   35.3
   31.3
   37.1
   35.0
   Plt
   180
   115
   102
   110
   105
   Cr
   1.1
   0.9
   0.8
   TCO2
   27
   Glucose
   123
   125
   115
   106
   Other labs: PT / PTT / INR:15.0/24.8/1.3, Alk Phos / T Bili:/2.0,
   Differential-Neuts:86.0 %, Band:0.0 %, Lymph:9.0 %, Mono:2.0 %, Eos:3.0
   %, Lactic Acid:1.3 mmol/L, LDH:277 IU/L, Ca++:7.4 mg/dL, Mg++:2.1
   mg/dL, PO4:2.3 mg/dL
   Imaging: CXR [**8-12**]:The previously identified parenchymal densities
   consistent with lymphangitis and left-sided pleural effusion remain
   unchanged.
   No pneumothorax has developed.
   Microbiology: BCX [**8-10**], [**8-12**]: NGTD
   Ucx: NGTD
   Assessment and Plan
 PANCYTOPENIA
 CANCER (MALIGNANT NEOPLASM), LUNG
   63 year old male with a history of poorly differentiated non-small cell
   lung cancer with known metastases to brain and liver, polycythemia
   [**Doctor First Name **], and RUE DVT on lovenox who presents with worsening dyspnea.
   # Dyspnea:  Likely multifactorial, with lymphangitic spread and
   re-accumulation of pleural fluids as primary causes.  [**Month (only) 11**] also have an
   element of post-obstructive pna given chest CTA findings, leukocytosis,
   cough, and subjective fevers at home.  Now s/p thoracentesis with
   1200ml drained. Felt subjectively better after procedure. Bronch with
   evidence of obstruction. Possible candidate for brachytherapy. Had
   second [**Female First Name (un) 231**] on left side today.
   - F/U IP recs.
   - would continue vanc/zosyn empirically for now for post-obstructive
   pna, especially given febrile O/N.
   - standing bronchodilators (albuterol and ipratropium)
   - Restart lovenox last today, 6h post [**Female First Name (un) 231**], at 5pm
   # Fever: ? secondary to atelectasis or bronch yesterday. Other possible
   sources include blood and urine. No indwelling lines.
   - f/u cultures
   - continue vanc/zosyn for ? post obstructive pna
   - monitor fever curve/wbc count
   # Thrombocytopenia: Hemolysis labs negative. Did have chemo 1 week
   prior, which is a probable source. Vanco can also cause low plts.
   - continue to monitor
   # Anemia: Hct is also down from admission (41->35) but stable. INR
   elevated at 1.3 but stable, which it has been in the past. Hemolysis
   labs negative.
   # Elevated Bili: more consistent with obstructive than hemolytic
   picture. No complaints of abdominal pain.
   - ck GGT, Aphos has been elevated, likely from liver mets.
   # Non-small cell lung cancer:  Has known metastases to brain and liver,
   recent drainage of a malignant right pleural effusion, ?worsening
   lymphangitic spread on chest CT, and initiation of new chemotherapeutic
   [**Doctor Last Name 23**] in the setting of progression
   - D/w onc
   # Right upper extremity DVT:  Has been on lovenox at home.
   - holding lovenox for now in setting of possible procedure
   - clarify whether heparin gtt is an option given brain mets
   # Polycythemia [**Doctor First Name **]:  stable, no active issues.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2155-8-10**] 10:46 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2155-08-13 12:13:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   fever yesterday. s/p Right [**Female First Name (un) 231**] for 1.2L yesterday, Left [**Female First Name (un) 231**] for
   0.5L today. Bronch yesterday with airway narrowing compression by tumor
   LUL, RM, RLL.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2155-8-12**] 11:34 AM
   Piperacillin/Tazobactam (Zosyn) - [**2155-8-13**] 04:48 AM
   Vancomycin - [**2155-8-13**] 09:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2155-8-13**] 10:30 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: negative for GI complaints, GU complaints, Neuro
   complaints. Dyspnea stable. Chest pain on Right decreasing.
   Flowsheet Data as of  [**2155-8-13**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.9
C (98.4
   HR: 93 (82 - 104) bpm
   BP: 106/65(75) {94/44(55) - 121/71(87)} mmHg
   RR: 33 (17 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    930 mL
                                                                    660 mL
   PO:
                                                                    230 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    700 mL
                                                                    420 mL
   Blood products:
   Total out:
                                                                  4,735 mL
                                                                    700 mL
   Urine:
                                                                  2,335 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
                                                                  2,400 mL
   Balance:
                                                                 -3,805 mL
                                                                    -40 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilaterally, Wheezes : LUL)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   105 K/uL
   106 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   18 mg/dL
   104 mEq/L
   135 mEq/L
   35.0 %
   8.6 K/uL
        [image002.jpg]
                             [**2155-8-11**]  12:02 AM
                             [**2155-8-11**]  03:54 AM
                             [**2155-8-12**]  05:10 AM
                             [**2155-8-12**]  01:10 PM
                             [**2155-8-12**]  05:31 PM
                             [**2155-8-13**]  03:47 AM
   WBC
   12.5
   7.2
   6.0
   8.6
   8.6
   Hct
   42.9
   35.3
   31.3
   37.1
   35.0
   Plt
   180
   115
   102
   110
   105
   Cr
   1.1
   0.9
   0.8
   TCO2
   27
   Glucose
   123
   125
   115
   106
   Other labs: PT / PTT / INR:15.0/24.8/1.3, Alk Phos / T Bili:/2.0,
   Differential-Neuts:86.0 %, Band:0.0 %, Lymph:9.0 %, Mono:2.0 %, Eos:3.0
   %, Lactic Acid:1.3 mmol/L, LDH:277 IU/L, Ca++:7.4 mg/dL, Mg++:2.1
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 PANCYTOPENIA
   s/p chemo continue to monitor
 CANCER (MALIGNANT NEOPLASM), LUNG
   s/p bilateral thoracentesis, plan for Rt sided pleurex catheter on the
   Rt when fluid reaccumulates. being consdered for brachytherapy for
   airway obstruction by IP. Also with RUE swelling, may need repeat USG (
   R/o DVT)
fever: continue current anitbiotics for postobstructive pneumonia, may
   be secondary to bronchoscopy, f/u cultures for now.
Elevated bili: check AlkPhos and GGT, monitor, consider RUQ ultrasound
   if persistently rising.
   ICU Care
   Nutrition:
   Comments: oral diet
   Glycemic Control:  N/I
   Lines:
   18 Gauge - [**2155-8-10**] 10:46 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP: N/I
   Comments:
   Communication:  Comments:  with patient and his family at bedside
   Code status: Full code
   Disposition :Transfer to floor (OMED)
   Total time spent: 25 minutes